* Created by KLayout
*** My special header ***

* cell sram_2w8b_top
* pin A0
* pin DIN0
* pin DIN1
* pin DIN2
* pin DIN3
* pin DIN4
* pin DIN5
* pin DIN6
* pin DIN7
* pin DOUT0
* pin DOUT7
* pin PCB
* pin VDD
* pin VSS
* pin WE
* pin WLE
.SUBCKT sram_2w8b_top A0 DIN0 DIN1 DIN2 DIN3 DIN4 DIN5 DIN6 DIN7 DOUT0 DOUT7
+ PCB VDD VSS WE WLE
* cell instance $2 r0 *1 270.2,81.7
X$2 VDD \$45 DOUT0 \$58 DOUT7 VSS read_buffer
* cell instance $4 r0 *1 -118.1,171.7
X$4 A0 \$72 \$73 VDD WLE VSS decoder
* cell instance $5 r0 *1 383.1,-9994.1
X$5 VDD \$44 \$47 \$73 \$49 \$72 \$59 \$51 \$48 \$52 \$50 \$46 \$57 \$56 \$53
+ \$45 \$54 \$55 \$58 VSS sram_2w8b
* cell instance $6 r0 *1 277.4,187.9
X$6 VDD \$45 \$44 \$59 \$58 PCB \$74 VSS precharge
* cell instance $9 r0 *1 126.1,94.6
X$9 VDD DIN4 DIN5 \$22 \$52 \$55 \$53 \$54 WE VSS write_driver
* cell instance $10 r0 *1 54.7,94.6
X$10 VDD DIN2 DIN3 \$22 \$48 \$51 \$49 \$50 WE VSS write_driver
* cell instance $11 r0 *1 197.5,94.6
X$11 VDD DIN6 DIN7 \$22 \$56 \$59 \$57 \$58 WE VSS write_driver
* cell instance $53 r0 *1 -16.7,94.6
X$53 VDD DIN0 DIN1 \$22 \$44 \$47 \$45 \$46 WE VSS write_driver
* device instance $1 r0 *1 -71.9,98.9 PMOS
XM$1 VDD WE \$22 VDD PMOS L=1u W=6.8u AS=19.04p AD=19.04p PS=19.2u PD=19.2u
* device instance $2 r180 *1 298.6,207 PMOS
XM$2 VDD PCB \$74 VDD PMOS L=1u W=6.8u AS=19.04p AD=19.04p PS=19.2u PD=19.2u
* device instance $3 r0 *1 -71.9,76.8 NMOS
XM$3 VSS WE \$22 VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $4 r180 *1 298.6,229.1 NMOS
XM$4 VSS PCB \$74 VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
.ENDS sram_2w8b_top

* cell read_buffer
* pin VDD
* pin BLB0
* pin DOUT0
* pin BLB1
* pin DOUT1
* pin VSS
.SUBCKT read_buffer VDD BLB0 DOUT0 BLB1 DOUT1 VSS
* device instance $1 m135 *1 6.8,24.9 PMOS
XM$1 VDD BLB0 DOUT0 VDD PMOS L=1u W=6.8u AS=19.04p AD=19.04p PS=19.2u PD=19.2u
* device instance $2 r270 *1 36.6,24.9 PMOS
XM$2 VDD BLB1 DOUT1 VDD PMOS L=1u W=6.8u AS=19.04p AD=19.04p PS=19.2u PD=19.2u
* device instance $3 m135 *1 5.1,1.3 NMOS
XM$3 DOUT0 BLB0 VSS VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $4 r270 *1 38.3,1.3 NMOS
XM$4 DOUT1 BLB1 VSS VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
.ENDS read_buffer

* cell decoder
* pin A0
* pin WL0
* pin WL1
* pin VDD
* pin WLE
* pin VSS
.SUBCKT decoder A0 WL0 WL1 VDD WLE VSS
* device instance $1 r0 *1 23.4,60.8 NMOS
XM$1 \$6 A0 \$33 VSS NMOS L=1u W=6.8u AS=19.04p AD=10.2p PS=19.2u PD=9.8u
* device instance $2 r0 *1 23.4,64.8 NMOS
XM$2 \$33 WLE VSS VSS NMOS L=1u W=6.8u AS=10.2p AD=19.04p PS=9.8u PD=19.2u
* device instance $3 r0 *1 23.4,-0.4 NMOS
XM$3 VSS WLE \$37 VSS NMOS L=1u W=6.8u AS=19.04p AD=10.2p PS=19.2u PD=9.8u
* device instance $4 r0 *1 23.4,3.6 NMOS
XM$4 \$37 \$1 \$4 VSS NMOS L=1u W=6.8u AS=10.2p AD=19.04p PS=9.8u PD=19.2u
* device instance $5 m135 *1 12.7,27.2 PMOS
XM$5 VDD \$1 \$4 VDD PMOS L=1u W=6.8u AS=19.04p AD=19.04p PS=19.2u PD=19.2u
* device instance $6 m45 *1 -0.5,27.2 PMOS
XM$6 \$1 A0 VDD VDD PMOS L=1u W=6.8u AS=19.04p AD=19.04p PS=19.2u PD=19.2u
* device instance $7 m135 *1 12.7,37.2 PMOS
XM$7 \$6 A0 VDD VDD PMOS L=1u W=6.8u AS=19.04p AD=19.04p PS=19.2u PD=19.2u
* device instance $8 m135 *1 40.6,27.2 PMOS
XM$8 VDD \$4 WL0 VDD PMOS L=1u W=6.8u AS=19.04p AD=19.04p PS=19.2u PD=19.2u
* device instance $9 m135 *1 23.4,27.2 PMOS
XM$9 VDD WLE \$4 VDD PMOS L=1u W=6.8u AS=19.04p AD=19.04p PS=19.2u PD=19.2u
* device instance $10 m135 *1 40.6,37.2 PMOS
XM$10 WL1 \$6 VDD VDD PMOS L=1u W=6.8u AS=19.04p AD=19.04p PS=19.2u PD=19.2u
* device instance $11 m135 *1 23.4,37.2 PMOS
XM$11 \$6 WLE VDD VDD PMOS L=1u W=6.8u AS=19.04p AD=19.04p PS=19.2u PD=19.2u
* device instance $12 m45 *1 -2.5,1.6 NMOS
XM$12 VSS A0 \$1 VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $13 m135 *1 38.9,-0.4 NMOS
XM$13 WL0 \$4 VSS VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $14 m135 *1 38.9,64.8 NMOS
XM$14 VSS \$6 WL1 VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
.ENDS decoder

* cell precharge
* pin VDD
* pin BLB0
* pin BL0
* pin BL1
* pin BLB1
* pin PCB
* pin EQEN
* pin VSS
.SUBCKT precharge VDD BLB0 BL0 BL1 BLB1 PCB EQEN VSS
* device instance $1 m45 *1 0,0 PMOS
XM$1 BLB0 PCB VDD VDD PMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $2 m45 *1 23.2,0 PMOS
XM$2 BL1 PCB VDD VDD PMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $3 m45 *1 29,0 PMOS
XM$3 BLB1 PCB VDD VDD PMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $4 m45 *1 5.8,0 PMOS
XM$4 BL0 PCB VDD VDD PMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $5 m0 *1 2.8,-22 NMOS
XM$5 BLB0 EQEN BL0 VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $6 m0 *1 26,-22 NMOS
XM$6 BL1 EQEN BLB1 VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
.ENDS precharge

* cell write_driver
* pin VDD
* pin DIN0
* pin DIN1
* pin WEB
* pin BL0
* pin BL1
* pin BLB0
* pin BLB1
* pin WE
* pin VSS
.SUBCKT write_driver VDD DIN0 DIN1 WEB BL0 BL1 BLB0 BLB1 WE VSS
* device instance $1 r0 *1 36.4,-1.2 PMOS
XM$1 DIN1 WEB BL1 VDD PMOS L=1u W=6.8u AS=19.04p AD=19.04p PS=19.2u PD=19.2u
* device instance $2 r0 *1 23.4,-1.2 PMOS
XM$2 BLB1 WEB \$9 VDD PMOS L=1u W=6.8u AS=19.04p AD=10.2p PS=19.2u PD=9.8u
* device instance $3 r0 *1 27.4,-1.2 PMOS
XM$3 \$9 DIN1 VDD VDD PMOS L=1u W=6.8u AS=10.2p AD=19.04p PS=9.8u PD=19.2u
* device instance $4 r0 *1 -1.2,-1.2 PMOS
XM$4 VDD DIN0 \$5 VDD PMOS L=1u W=6.8u AS=19.04p AD=10.2p PS=19.2u PD=9.8u
* device instance $5 r0 *1 2.8,-1.2 PMOS
XM$5 \$5 WEB BLB0 VDD PMOS L=1u W=6.8u AS=10.2p AD=19.04p PS=9.8u PD=19.2u
* device instance $6 r0 *1 -10.2,-1.2 PMOS
XM$6 BL0 WEB DIN0 VDD PMOS L=1u W=6.8u AS=19.04p AD=19.04p PS=19.2u PD=19.2u
* device instance $7 r180 *1 -1.2,-23.3 NMOS
XM$7 \$5 DIN0 VSS VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $8 m0 *1 27.4,-23.3 NMOS
XM$8 \$9 DIN1 VSS VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $9 r0 *1 -10.2,22 NMOS
XM$9 BL0 WE DIN0 VSS NMOS L=1u W=5.2u AS=14.56p AD=14.56p PS=16u PD=16u
* device instance $10 m90 *1 36.4,22 NMOS
XM$10 BL1 WE DIN1 VSS NMOS L=1u W=5.2u AS=14.56p AD=14.56p PS=16u PD=16u
* device instance $11 r0 *1 2.8,22 NMOS
XM$11 \$5 WE BLB0 VSS NMOS L=1u W=5.2u AS=14.56p AD=14.56p PS=16u PD=16u
* device instance $12 m90 *1 23.4,22 NMOS
XM$12 \$9 WE BLB1 VSS NMOS L=1u W=5.2u AS=14.56p AD=14.56p PS=16u PD=16u
.ENDS write_driver

* cell sram_2w8b
* pin VDD
* pin BL0
* pin BL1
* pin WL1
* pin BLB2
* pin WL0
* pin BL7
* pin BL3
* pin BL2
* pin BL4
* pin BLB3
* pin BLB1
* pin BLB6
* pin BL6
* pin BLB4
* pin BLB0
* pin BLB5
* pin BL5
* pin BLB7
* pin VSS
.SUBCKT sram_2w8b VDD BL0 BL1 WL1 BLB2 WL0 BL7 BL3 BL2 BL4 BLB3 BLB1 BLB6 BL6
+ BLB4 BLB0 BLB5 BL5 BLB7 VSS
* device instance $1 r0 *1 -162.2,10194 PMOS
XM$1 \$I24 \$I25 VDD VDD PMOS L=1u W=3.4u AS=9.52p AD=10.81p PS=12.4u PD=9u
* device instance $2 r0 *1 -156.6,10194 PMOS
XM$2 VDD \$I24 \$I25 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $3 r0 *1 -162.2,10202 PMOS
XM$3 VDD \$I28 \$I27 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $4 r0 *1 -156.6,10202 PMOS
XM$4 VDD \$I27 \$I28 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $5 r0 *1 -188.4,10194 PMOS
XM$5 \$I22 \$I23 VDD VDD PMOS L=1u W=3.4u AS=9.52p AD=10.81p PS=12.4u PD=9u
* device instance $6 r0 *1 -182.8,10194 PMOS
XM$6 VDD \$I22 \$I23 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $7 r0 *1 -188.4,10202 PMOS
XM$7 VDD \$I29 \$I26 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $8 r0 *1 -182.8,10202 PMOS
XM$8 VDD \$I26 \$I29 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $9 r0 *1 -188.4,10224.1 NMOS
XM$9 \$I26 \$I29 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $10 r0 *1 -182.8,10224.1 NMOS
XM$10 VSS \$I26 \$I29 VSS NMOS L=1u W=6.8u AS=19.02p AD=26.35p PS=14u PD=15.3u
* device instance $11 r0 *1 -191.9,10231 NMOS
XM$11 \$I26 WL1 BL6 VSS NMOS L=1u W=5.1u AS=26.35p AD=18.36p PS=15.3u PD=17.4u
* device instance $12 r0 *1 -179.4,10231 NMOS
XM$12 \$I29 WL1 BLB6 VSS NMOS L=1u W=5.1u AS=26.35p AD=18.36p PS=15.3u PD=17.4u
* device instance $13 r0 *1 -191.9,10165 NMOS
XM$13 BL6 WL0 \$I22 VSS NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u PD=15.3u
* device instance $14 r0 *1 -179.4,10165 NMOS
XM$14 BLB6 WL0 \$I23 VSS NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u PD=15.3u
* device instance $15 r0 *1 -188.4,10171.9 NMOS
XM$15 \$I22 \$I23 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $16 r0 *1 -182.8,10171.9 NMOS
XM$16 \$I23 \$I22 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $17 r0 *1 -165.7,10165 NMOS
XM$17 BLB7 WL0 \$I24 VSS NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u PD=15.3u
* device instance $18 r0 *1 -153.2,10165 NMOS
XM$18 BL7 WL0 \$I25 VSS NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u PD=15.3u
* device instance $19 r0 *1 -162.2,10171.9 NMOS
XM$19 \$I24 \$I25 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $20 r0 *1 -156.6,10171.9 NMOS
XM$20 \$I25 \$I24 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $21 r0 *1 -162.2,10224.1 NMOS
XM$21 \$I27 \$I28 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $22 r0 *1 -156.6,10224.1 NMOS
XM$22 VSS \$I27 \$I28 VSS NMOS L=1u W=6.8u AS=19.02p AD=26.35p PS=14u PD=15.3u
* device instance $23 r0 *1 -165.7,10231 NMOS
XM$23 \$I27 WL1 BLB7 VSS NMOS L=1u W=5.1u AS=26.35p AD=18.36p PS=15.3u PD=17.4u
* device instance $24 r0 *1 -153.2,10231 NMOS
XM$24 \$I28 WL1 BL7 VSS NMOS L=1u W=5.1u AS=26.35p AD=18.36p PS=15.3u PD=17.4u
* device instance $25 r0 *1 -233.6,10194 PMOS
XM$25 \$I32 \$I33 VDD VDD PMOS L=1u W=3.4u AS=9.52p AD=10.81p PS=12.4u PD=9u
* device instance $26 r0 *1 -228,10194 PMOS
XM$26 VDD \$I32 \$I33 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $27 r0 *1 -233.6,10202 PMOS
XM$27 VDD \$I36 \$I35 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $28 r0 *1 -228,10202 PMOS
XM$28 VDD \$I35 \$I36 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $29 r0 *1 -259.8,10194 PMOS
XM$29 \$I30 \$I31 VDD VDD PMOS L=1u W=3.4u AS=9.52p AD=10.81p PS=12.4u PD=9u
* device instance $30 r0 *1 -254.2,10194 PMOS
XM$30 VDD \$I30 \$I31 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $31 r0 *1 -259.8,10202 PMOS
XM$31 VDD \$I37 \$I34 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $32 r0 *1 -254.2,10202 PMOS
XM$32 VDD \$I34 \$I37 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $33 r0 *1 -259.8,10224.1 NMOS
XM$33 \$I34 \$I37 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $34 r0 *1 -254.2,10224.1 NMOS
XM$34 VSS \$I34 \$I37 VSS NMOS L=1u W=6.8u AS=19.02p AD=26.35p PS=14u PD=15.3u
* device instance $35 r0 *1 -263.3,10231 NMOS
XM$35 \$I34 WL1 BL4 VSS NMOS L=1u W=5.1u AS=26.35p AD=18.36p PS=15.3u PD=17.4u
* device instance $36 r0 *1 -250.8,10231 NMOS
XM$36 \$I37 WL1 BLB4 VSS NMOS L=1u W=5.1u AS=26.35p AD=18.36p PS=15.3u PD=17.4u
* device instance $37 r0 *1 -263.3,10165 NMOS
XM$37 BL4 WL0 \$I30 VSS NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u PD=15.3u
* device instance $38 r0 *1 -250.8,10165 NMOS
XM$38 BLB4 WL0 \$I31 VSS NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u PD=15.3u
* device instance $39 r0 *1 -259.8,10171.9 NMOS
XM$39 \$I30 \$I31 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $40 r0 *1 -254.2,10171.9 NMOS
XM$40 \$I31 \$I30 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $41 r0 *1 -237.1,10165 NMOS
XM$41 BLB5 WL0 \$I32 VSS NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u PD=15.3u
* device instance $42 r0 *1 -224.6,10165 NMOS
XM$42 BL5 WL0 \$I33 VSS NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u PD=15.3u
* device instance $43 r0 *1 -233.6,10171.9 NMOS
XM$43 \$I32 \$I33 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $44 r0 *1 -228,10171.9 NMOS
XM$44 \$I33 \$I32 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $45 r0 *1 -233.6,10224.1 NMOS
XM$45 \$I35 \$I36 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $46 r0 *1 -228,10224.1 NMOS
XM$46 VSS \$I35 \$I36 VSS NMOS L=1u W=6.8u AS=19.02p AD=26.35p PS=14u PD=15.3u
* device instance $47 r0 *1 -237.1,10231 NMOS
XM$47 \$I35 WL1 BLB5 VSS NMOS L=1u W=5.1u AS=26.35p AD=18.36p PS=15.3u PD=17.4u
* device instance $48 r0 *1 -224.6,10231 NMOS
XM$48 \$I36 WL1 BL5 VSS NMOS L=1u W=5.1u AS=26.35p AD=18.36p PS=15.3u PD=17.4u
* device instance $49 r0 *1 -305,10194 PMOS
XM$49 \$I40 \$I41 VDD VDD PMOS L=1u W=3.4u AS=9.52p AD=10.81p PS=12.4u PD=9u
* device instance $50 r0 *1 -299.4,10194 PMOS
XM$50 VDD \$I40 \$I41 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $51 r0 *1 -305,10202 PMOS
XM$51 VDD \$I44 \$I43 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $52 r0 *1 -299.4,10202 PMOS
XM$52 VDD \$I43 \$I44 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $53 r0 *1 -331.2,10194 PMOS
XM$53 \$I38 \$I39 VDD VDD PMOS L=1u W=3.4u AS=9.52p AD=10.81p PS=12.4u PD=9u
* device instance $54 r0 *1 -325.6,10194 PMOS
XM$54 VDD \$I38 \$I39 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $55 r0 *1 -331.2,10202 PMOS
XM$55 VDD \$I45 \$I42 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $56 r0 *1 -325.6,10202 PMOS
XM$56 VDD \$I42 \$I45 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $57 r0 *1 -331.2,10224.1 NMOS
XM$57 \$I42 \$I45 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $58 r0 *1 -325.6,10224.1 NMOS
XM$58 VSS \$I42 \$I45 VSS NMOS L=1u W=6.8u AS=19.02p AD=26.35p PS=14u PD=15.3u
* device instance $59 r0 *1 -334.7,10231 NMOS
XM$59 \$I42 WL1 BL2 VSS NMOS L=1u W=5.1u AS=26.35p AD=18.36p PS=15.3u PD=17.4u
* device instance $60 r0 *1 -322.2,10231 NMOS
XM$60 \$I45 WL1 BLB2 VSS NMOS L=1u W=5.1u AS=26.35p AD=18.36p PS=15.3u PD=17.4u
* device instance $61 r0 *1 -334.7,10165 NMOS
XM$61 BL2 WL0 \$I38 VSS NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u PD=15.3u
* device instance $62 r0 *1 -322.2,10165 NMOS
XM$62 BLB2 WL0 \$I39 VSS NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u PD=15.3u
* device instance $63 r0 *1 -331.2,10171.9 NMOS
XM$63 \$I38 \$I39 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $64 r0 *1 -325.6,10171.9 NMOS
XM$64 \$I39 \$I38 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $65 r0 *1 -308.5,10165 NMOS
XM$65 BLB3 WL0 \$I40 VSS NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u PD=15.3u
* device instance $66 r0 *1 -296,10165 NMOS
XM$66 BL3 WL0 \$I41 VSS NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u PD=15.3u
* device instance $67 r0 *1 -305,10171.9 NMOS
XM$67 \$I40 \$I41 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $68 r0 *1 -299.4,10171.9 NMOS
XM$68 \$I41 \$I40 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $69 r0 *1 -305,10224.1 NMOS
XM$69 \$I43 \$I44 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $70 r0 *1 -299.4,10224.1 NMOS
XM$70 VSS \$I43 \$I44 VSS NMOS L=1u W=6.8u AS=19.02p AD=26.35p PS=14u PD=15.3u
* device instance $71 r0 *1 -308.5,10231 NMOS
XM$71 \$I43 WL1 BLB3 VSS NMOS L=1u W=5.1u AS=26.35p AD=18.36p PS=15.3u PD=17.4u
* device instance $72 r0 *1 -296,10231 NMOS
XM$72 \$I44 WL1 BL3 VSS NMOS L=1u W=5.1u AS=26.35p AD=18.36p PS=15.3u PD=17.4u
* device instance $73 r0 *1 -376.4,10194 PMOS
XM$73 \$I48 \$I49 VDD VDD PMOS L=1u W=3.4u AS=9.52p AD=10.81p PS=12.4u PD=9u
* device instance $74 r0 *1 -370.8,10194 PMOS
XM$74 VDD \$I48 \$I49 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $75 r0 *1 -376.4,10202 PMOS
XM$75 VDD \$I52 \$I51 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $76 r0 *1 -370.8,10202 PMOS
XM$76 VDD \$I51 \$I52 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $77 r0 *1 -402.6,10194 PMOS
XM$77 \$I46 \$I47 VDD VDD PMOS L=1u W=3.4u AS=9.52p AD=10.81p PS=12.4u PD=9u
* device instance $78 r0 *1 -397,10194 PMOS
XM$78 VDD \$I46 \$I47 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $79 r0 *1 -402.6,10202 PMOS
XM$79 VDD \$I53 \$I50 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $80 r0 *1 -397,10202 PMOS
XM$80 VDD \$I50 \$I53 VDD PMOS L=1u W=3.4u AS=10.81p AD=9.52p PS=9u PD=12.4u
* device instance $81 r0 *1 -402.6,10224.1 NMOS
XM$81 \$I50 \$I53 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $82 r0 *1 -397,10224.1 NMOS
XM$82 VSS \$I50 \$I53 VSS NMOS L=1u W=6.8u AS=19.02p AD=26.35p PS=14u PD=15.3u
* device instance $83 r0 *1 -406.1,10231 NMOS
XM$83 \$I50 WL1 BL0 VSS NMOS L=1u W=5.1u AS=26.35p AD=18.36p PS=15.3u PD=17.4u
* device instance $84 r0 *1 -393.6,10231 NMOS
XM$84 \$I53 WL1 BLB0 VSS NMOS L=1u W=5.1u AS=26.35p AD=18.36p PS=15.3u PD=17.4u
* device instance $85 r0 *1 -406.1,10165 NMOS
XM$85 BL0 WL0 \$I46 VSS NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u PD=15.3u
* device instance $86 r0 *1 -393.6,10165 NMOS
XM$86 BLB0 WL0 \$I47 VSS NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u PD=15.3u
* device instance $87 r0 *1 -402.6,10171.9 NMOS
XM$87 \$I46 \$I47 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $88 r0 *1 -397,10171.9 NMOS
XM$88 \$I47 \$I46 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $89 r0 *1 -379.9,10165 NMOS
XM$89 BLB1 WL0 \$I48 VSS NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u PD=15.3u
* device instance $90 r0 *1 -367.4,10165 NMOS
XM$90 BL1 WL0 \$I49 VSS NMOS L=1u W=5.1u AS=18.36p AD=26.35p PS=17.4u PD=15.3u
* device instance $91 r0 *1 -376.4,10171.9 NMOS
XM$91 \$I48 \$I49 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $92 r0 *1 -370.8,10171.9 NMOS
XM$92 \$I49 \$I48 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $93 r0 *1 -376.4,10224.1 NMOS
XM$93 \$I51 \$I52 VSS VSS NMOS L=1u W=6.8u AS=26.35p AD=19.02p PS=15.3u PD=14u
* device instance $94 r0 *1 -370.8,10224.1 NMOS
XM$94 VSS \$I51 \$I52 VSS NMOS L=1u W=6.8u AS=19.02p AD=26.35p PS=14u PD=15.3u
* device instance $95 r0 *1 -379.9,10231 NMOS
XM$95 \$I51 WL1 BLB1 VSS NMOS L=1u W=5.1u AS=26.35p AD=18.36p PS=15.3u PD=17.4u
* device instance $96 r0 *1 -367.4,10231 NMOS
XM$96 \$I52 WL1 BL1 VSS NMOS L=1u W=5.1u AS=26.35p AD=18.36p PS=15.3u PD=17.4u
.ENDS sram_2w8b
